US08895745B2
Procedure U5: 1-(4-Chloro-pyridin-2-yl)-3-ethyl-urea
To 2-amino-4-chloropyridine (1.02 g, 7.9 mmol) in THF (20 mL) was added ethyl isocyanate (0.69 ml, 8.69 mmol) and the reaction heated at 55° C. for 18 hours. The reaction was concentrated in vacuo. The resulting white solid was suspended in EtOAc and filtered to give the product as a white solid (0.79 g).

reactant | 2-amino-4-chloropyridine | 7.9 mmol, 1.02 g | NC1=NC=CC(=C1)Cl | C5H5ClN2
reactant | ethyl isocyanate | 8.69 mmol, 0.69 ml | C(C)N=C=O | C3H5NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(4-Chloro-pyridin-2-yl)-3-ethyl-urea | 0.79 g | ClC1=CC(=NC=C1)NC(=O)NCC | C8H10ClN3O
